US05366989
In 5 ml of ethanol was dissolved 1.0 g of ethyl 4-chloro-2,2-difluoro-3-hydroxy-3-phenylbutyrate. To the resulting solution was added 0.98 ml of a concentrated aqueous ammonia. The solution was subjected to reaction at 25°30° C. for 3 hours. The solvent was removed by distillation under reduced pressure. To the residue obtained were added 20 ml of ethyl acetate and 20 ml of water. The resulting solution was adjusted to pH 1.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure. The residue obtained was dissolved in 10 ml of N,N-dimethylformamide. To the solution were added 0.5 g of 1,2,4-triazole and 1.0 g of anhydrous potassium carbonate. The resulting mixture was subjected to reaction at 70° C. for 10 hours. Then, the solvent was removed by distillation under reduced pressure. To the residue obtained were added 20 ml of ethyl acetate and 20 ml of water. The resulting solution was adjusted to pH 1.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant:chloroform/methanol=50/1) to obtain 0.30 g of 2,2-difluoro-3-hydroxy-3-phenyl-4-(1H-1,2,4-triazol-1-yl)butanamide.

reactant | ethyl 4-chloro-2,2-difluoro-3-hydroxy-3-phenylbutyrate | 1.0 g | ClCC(C(C(=O)OCC)(F)F)(C1=CC=CC=C1)O | C12H13ClF2O3
reactant | ammonia | 0.98 ml | N | H3N
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | 1,2,4-triazole | 0.5 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2,2-difluoro-3-hydroxy-3-phenyl-4-(1H-1,2,4-triazol-1-yl)butanamide | 0.30 g | FC(C(=O)N)(C(CN1N=CN=C1)(C1=CC=CC=C1)O)F | C12H12F2N4O2
